datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9](=[C:10]([C:11]([C:12](=[C:13]([H:19])[H:20])[H:18])[H:17])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:11]([C:10](=[C:9]([H:14])[H:15])[H:16])([C:12](=[C:13]([H:19])[H:20])[H:18])[H:17],108.449
[O:0]=[S:1]([O:2][H:4])[S:3][H:5].[S:6][H:7]>>[O:0]=[S:1][O:2][H:4].[S:3]([H:5])[S:6][H:7],33.472
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[S:12]=[C:13]([S:14][H:16])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:15])[H:5].[S:12]=[C:13][S:14][H:16],125.646
[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[C:16]([C:17]([C:18]([C:19]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21]>>[C:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])([H:9])[C:16]([C:17]([C:18]([C:19]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21],15.4228
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7](=[C:8]([H:23])[H:24])[H:22])=[C:9]([C:10](=[C:11]([H:27])[H:28])[H:26])[H:25])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:15])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1([H:15])[C:3]([H:16])([H:17])[C:4]([H:18])([H:19])[C:5]([H:20])([H:21])[C:6]([C:7](=[C:8]([H:23])[H:24])[H:22])[C:9]1([C:10](=[C:11]([H:27])[H:28])[H:26])[H:25])[H:14])([H:12])[H:13],59.0781
[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[S:7]([H:8])[H:9]>>[C:0]([C:1]([O:2][H:8])([H:6])[S:7][H:9])([H:3])([H:4])[H:5],152.047
[C:0](=[C:1]([C:2]([H:9])([H:10])[H:11])[C:3]([C:4]([C:5]([C:6]([H:17])([H:18])[H:19])[H:16])([H:14])[H:15])([H:12])[H:13])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([C:2]([H:9])([H:10])[H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([C:6]([H:17])([H:18])[H:19])[H:16],66.149
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[C:10]([C:11]([H:14])([H:15])[H:16])([H:12])[H:13]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:6])[H:14])([H:3])([H:4])[H:5].[C:10](=[C:11]([H:15])[H:16])([H:12])[H:13],0.0
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[O:21][O:22]>>[C:0]([C:1]1[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[H:10][O:21][O:22],184.096
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([C:15](=[C:16]([H:28])[H:29])[H:27])=[C:17]([c:18]1[c:19]([H:31])[c:20]([H:32])[c:21]([H:33])[c:22]([H:34])[c:23]1[H:35])[H:30])[H:26])([H:24])[H:25]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:14]([C:13](=[C:12]([H:24])[H:25])[H:26])([C:15](=[C:16]([H:28])[H:29])[H:27])[C:17]([c:18]1[c:19]([H:31])[c:20]([H:32])[c:21]([H:33])[c:22]([H:34])[c:23]1[H:35])[H:30])[H:5],39.3296
[C:0]([C:1](=[C:2]([C:3](=[O:4])[H:10])[H:9])[H:8])([H:5])([H:6])[H:7].[H:11]>>[C:0]([C:1](=[C:2]([C:3]=[O:4])[H:9])[H:8])([H:5])([H:6])[H:7].[H:10][H:11],10.41816
[C:0]([C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6]([H:15])([H:16])[H:17])[H:14])([H:9])[H:10])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])[C:5]1([C:6]([H:15])([H:16])[H:17])[H:14],123.261
[H:6].[N:0]([C:1](=[O:2])[H:5])([H:3])[H:4]>>[H:5][H:6].[N:0]([C:1]=[O:2])([H:3])[H:4],29.09972
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])[H:12])([H:9])([H:10])[H:11].[C:21]([C:22]([C:23]([H:29])([H:30])[H:31])[C:24](=[S:25])[H:32])([H:26])([H:27])[H:28]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])([H:9])([H:10])[H:11].[H:12][C:22]([C:21]([H:26])([H:27])[H:28])([C:23]([H:29])([H:30])[H:31])[C:24](=[S:25])[H:32],53.1368
[C:0]([C:1]([C:2]([O:3][O:4])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:12][H:13]>>[C:0]([C:1]([C:2]([O:3][O:4][H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:12],108.90952
[C:0]1([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])([H:14])[C:4]2([H:15])[C:5]([H:16])=[C:6]([H:17])[C:7]([H:18])=[C:8]([H:19])[C:9]12[H:20]>>[C:0]1([H:10])([H:20])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])([H:14])[C:4]2([H:15])[C:5]([H:16])=[C:6]([H:17])[C:7]([H:18])=[C:8]([H:19])[C:9]12,133.4696
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[C:6]([H:7])[H:8]>>[C:0]([O:1])([H:2])([H:3])[H:4].[H:5][C:6]([H:7])[H:8],29.037
[C:0](=[O:1])[H:2].[C:3](=[O:4])[H:5]>>[C-:3]#[O+:4].[C:0](=[O:1])([H:2])[H:5],0.0
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5]([C:6]([C:7]([C:8](=[C:9]([C:10]([H:25])([H:26])[H:27])[H:24])[H:23])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]([H:21])([H:22])[C:8]1([C:9]([C:10]([H:25])([H:26])[H:27])[H:24])[H:23])[H:11],64.2244
